US09388189B2
(S)—N-(3-Hydroxy-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide
(S)—N-(3-hydroxy-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide (160 mg, 0.22 mmol) was treated with trifluoroacetic acid (4.1 mL, 53.22 mmol) and a solution of ammonia (7N in methanol, 4.1 mL, 28.7 mmol) according to the method described in Example 27 to give 34 mg (28% yield) of the title compound. Purity 99%.

reactant | (S)—N-(3-hydroxy-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 0.22 mmol, 160 mg | OC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=CC=C1)COCC[Si](C)(C)C)NS(=O)(=O)C | C33H38N8O5SSi
reactant | trifluoroacetic acid | 53.22 mmol, 4.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 28.7 mmol, 7N, 4.1 mL | N | H3N
product | (S)—N-(3-Hydroxy-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 34 mg, 28% yield | OC=1C=C(C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=CC=C1)NS(=O)(=O)C | C27H24N8O4S
